US09108903B2
To a solution of 4,5-dichloro-2-(4-fluoro-2-methoxy-phenoxy)benzaldehyde (3.3 g, 10.47 mmol) in tBuOH (33.00 mL), water (19.80 mL) and acetonitrile (19.80 mL) was added sodium dihydrogen phosphate (655.9 μL, 10.47 mmol), 2-methylbut-2-ene (5.54 mL, 52.35 mmol) and sodium chlorite (2.84 g, 31.41 mmol). The reaction mixture was stirred at 25° C. for 1 h. The reaction mixture was acidified with 1N HCl and diluted with ethyl acetate. Sodium sulfite was added to remove the faint yellow color. The two layers were separated and the aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated. The solid was triturated with hexanes and filtered to provide 4,5-dichloro-2-(4-fluoro-2-methoxy-phenoxy)benzoic acid (2.94 g, 85%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 13.37 (br s, 1H), 7.96 (s, 1H), 7.18-7.12 (m, 2H), 6.86-6.80 (m, 2H), 3.76 (s, 3H) ppm.

reactant | 4,5-dichloro-2-(4-fluoro-2-methoxy-phenoxy)benzaldehyde | 10.47 mmol, 3.3 g | ClC1=CC(=C(C=O)C=C1Cl)OC1=C(C=C(C=C1)F)OC | C14H9Cl2FO3
reactant | sodium dihydrogen phosphate | 10.47 mmol, 655.9 μL | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methylbut-2-ene | 52.35 mmol, 5.54 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 31.41 mmol, 2.84 g | Cl(=O)[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tBuOH | 33.00 mL | CC(C)(C)O | C4H10O
solvent | water | 19.80 mL | O | H2O
solvent | acetonitrile | 19.80 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-dichloro-2-(4-fluoro-2-methoxy-phenoxy)benzoic acid | 2.94 g, 85% | ClC1=CC(=C(C(=O)O)C=C1Cl)OC1=C(C=C(C=C1)F)OC | C14H9Cl2FO4
